US04923857
To a solution of phosgene (2.5 ml) in toluene (15 ml) were added in turn triethylamine (1.45 ml) and a solution of (2S,4R)-1-allyloxycarbonyl-4-hydroxy-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine (2.50 g) in toluene (10 ml) at 0° C. After stirring at 0° C. for 2 hours, the mixture was evaporated in vacuo and the residue was taken up into toluene (15 ml). Evaporation of the solvent gave a residue, which was dissolved in tetrahydrofuran (5 ml). This solution was added dropwise to a solution of dimethylamine (0.89 g) in a mixture of water (50 ml) and tetrahydrofuran (50 ml) under stirring at 0° C., and the stirring was continued for additional 10 minutes at 0° C. After adjusting pH to 7 with 1N hydrochloric acid, the mixture was diluted with ethyl acetate (200 ml). The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (100 ml) eluting with a mixture of n-hexane and ethyl acetate (6:4 V/V) to give (2S,4R)-1-allyloxycarbonyl-4-(dimethylcarbamoyloxy)-2- -(2-methyl-3-oxo-1-butenyl)pyrrolidine (2.65 g). IR (Neat): 1700, 1665 cm-1

reactant | phosgene | 2.5 ml | C(=O)(Cl)Cl | CCl2O
reactant | (2S,4R)-1-allyloxycarbonyl-4-hydroxy-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine | 2.50 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)C=C(C(C)=O)C | C13H19NO4
reactant | dimethylamine | 0.89 g | CNC | C2H7N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.45 ml | C(C)N(CC)CC | C6H15N
product | (2S,4R)-1-allyloxycarbonyl-4-(dimethylcarbamoyloxy)-2- -(2-methyl-3-oxo-1-butenyl)pyrrolidine | 2.65 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OC(N(C)C)=O)C=C(C(C)=O)C | C16H24N2O5
